US04166177
Preparation of 2,2-Dioxo-3,4-dihydro-6-(1,1-dimethylethyl)-8-chloro-1,2,3-benzoxathiazine
A solution of 2,2-dioxo-6-(1,1-dimethylethyl)-8-chloro-1,2,3-benzoxathiazine (2.5 g., 9.2 millimole) in acetic acid (200 ml.) contained in a Parr apparatus is hydrogenated in the presence of platinum (IV) oxide at 20° C. and a pressure (initial) of 50 p.s.i. for five minutes. The catalyst is removed by filtration and the filtrate is evaporated in vocuo to provide the title compound as a residual solid (2.35 g., 93%), m.p. 158°-160° C. Crystallization from 50% ethanol gives analytically pure 2,2-dioxo-3,4-dihydro-6-(1,1-dimethylethyl)-8-chloro-1,2,3-benzoxathiazine as colorless crystals, m.p. 162°-163° C.

reactant | 2,2-dioxo-6-(1,1-dimethylethyl)-8-chloro-1,2,3-benzoxathiazine | 9.2 millimole, 2.5 g | O=S1(OC2=C(C=N1)C=C(C=C2Cl)C(C)(C)C)=O | C11H12ClNO3S
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | platinum (IV) oxide | [Pt](=O)=O
product | 2,2-Dioxo-3,4-dihydro-6-(1,1-dimethylethyl)-8-chloro-1,2,3-benzoxathiazine | 2.35 g, 93% | O=S1(OC2=C(CN1)C=C(C=C2Cl)C(C)(C)C)=O | C11H14ClNO3S
